US08754089B2
2-(1-(3-(3-Fluorophenyl)-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione
A solution of 3-(3-fluorophenyl)-2-(1-hydroxyethyl)-6-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one (0.6500 g, 2.179 mmol), triphenylphosphine (0.6858 g, 2.615 mmol), phthalimide (0.3847 g, 2.615 mmol), and THF (14.53 mL) was stirred at rt for 5 min to dissolve all reactants. The mixture was then cooled to 0° C. and to the cooled homogenous mixture was added dropwise over 3 min to diisopropyl azodicarboxylate (0.5148 mL, 2.615 mmol) at 0° C. The reaction mixture was allowed to warm to rt and stirred at rt. After 5 h, the mixture was concd under reduced pressure and partitioned between EtOAc (100 mL) and brine (100 mL). The organic layer was dried over Na2SO4, filtered, and concd under reduced pressure. The residue was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 25 min and 50% isocratic of EtOAc for 10 min as eluent to give 2-(1-(3-(3-fluorophenyl)-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)ethypisoindoline-1,3-dione as a bright yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 7.75-7.82 (2 H, m), 7.65-7.74 (3 H, m), 7.35-7.42 (1 H, m), 7.13-7.24 (1 H, m), 6.90-7.01 (4 H, m), 5.43 (1 H, q, J=7.0 Hz), 2.89 (3 H, s), 1.62 (3 H, d, J=7.4 Hz); Mass Spectrum (ESI) m/e=427.9 (M+1).

reactant | 3-(3-fluorophenyl)-2-(1-hydroxyethyl)-6-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one | 2.179 mmol, 0.6500 g | FC=1C=C(C=CC1)C1=C(N=C2N(C1=O)C(=CC=C2)C)C(C)O | C17H15FN2O2
reactant | triphenylphosphine | 2.615 mmol, 0.6858 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 2.615 mmol, 0.3847 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diisopropyl azodicarboxylate | 2.615 mmol, 0.5148 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 14.53 mL | C1CCOC1 | C4H8O
product | 2-(1-(3-(3-Fluorophenyl)-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione | FC=1C=C(C=CC1)C1=C(N=C2N(C1=O)C(=CC=C2)C)C(C)N2C(C1=CC=CC=C1C2=O)=O | C25H18FN3O3
